US07365085B2
b) 3-Hydroxy-N,N,-dimethyl-benzenesulfonamide
A solution of BBr3 (1 M in CH2Cl2, 2.0 mL, 2.0 mmol) was added dropwise to a −78° C. solution of 3-methoxy-N,N,-dimethyl-benzenesulfonamide (0.15 g, 0.7 mmol) in CH2Cl2 (2 mL). The mixture was warmed to rt and stirred for 2 h, then cooled to 0° C. and quenched with saturated NaCO3. The aqueous phase was neutralized with saturated NH4Cl and extracted with EtOAc. The organic extracts were washed with brine, dried (MgSO4), filtered and concentrated to give an oil which was directly in the next step. MS (ESI) 202 (M+H+).

reactant | BBr3 | 2.0 mmol, 1 M, 2.0 mL | B(Br)(Br)Br | BBr3
reactant | 3-methoxy-N,N,-dimethyl-benzenesulfonamide | 0.7 mmol, 0.15 g | COC=1C=C(C=CC1)S(=O)(=O)N(C)C | C9H13NO3S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-Hydroxy-N,N,-dimethyl-benzenesulfonamide | OC=1C=C(C=CC1)S(=O)(=O)N(C)C | C8H11NO3S
